US04242519
Methyl α-methylthio-(m-phenoxyphenyl)acetate (1.77 g) was dissolved in 10 ml of dimethylformamide, and with ice cooling, 260 mg (65% content) of sodium hydride was added. The mixture was stirred for 30 minutes. Then, 0.70 ml of isopropyl bromide was added, and with ice cooling for 3 minutes, the mixture was stirred at room temperature for 2.5 hours. After adding an aqueous solution of ammonium chloride (1 g/40 ml), the mixture was extracted three times with 50 ml of diethyl ether. The organic layer was washed twice with 20 ml of water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was chromatographed on a silica gel column using benzene as an eluent to afford 1.25 g of methyl α-methylthio-α-(m-phenoxyphenyl)isovalerate in a yield of 62%.

reactant | Methyl α-methylthio-(m-phenoxyphenyl)acetate | 1.77 g | CSC(C(=O)OC)C1=CC(=CC=C1)OC1=CC=CC=C1 | C16H16O3S
reactant | sodium hydride | 260 mg | [H-].[Na+]
reactant | isopropyl bromide | 0.70 ml | C(C)(C)Br | C3H7Br
reactant | ammonium chloride | 40 ml, 1 g | [Cl-].[NH4+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl α-methylthio-α-(m-phenoxyphenyl)isovalerate | 1.25 g, yield of 62% | CSC(C(=O)OC)(C(C)C)C1=CC(=CC=C1)OC1=CC=CC=C1 | C19H22O3S
